US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-fluoro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-N-methyl-1,3-benzenedicarboxamide
To a solution of 1,1-dimethylethyl 4-{[5′-({[(3-{[{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}(methyl)amino]carbonyl}phenyl) carbonyl]amino}methyl)-2′-fluoro-3-biphenylyl]methyl}-1-piperazinecarboxylate (0.056 g, 0.066 mmol) in DCM (0.25 mL) was added TFA (0.25 mL) which was then stirred at room temperature for 30 min before being diluted with DCM and basified with NaHCO3 (sat. aq.). The organic layer was separated, dried over Na2SO4, filtered, concentrated, purified using a Gilson HPLC (with TFA), and the final product was basified with an amine cartridge to afford 0.047 g (95%) of the title compound. LC-MS m/z 747 (M+H)+; 1H-NMR (400 MHz, CD3OD) δ ppm 1.39 (t, J=7.53 Hz, 3 H) 1.50 (t, J=7.28 Hz, 3 H) 1.79-1.92 (m, 2 H) 2.08-2.17 (m, J=12.80, 1.76 Hz, 2 H) 2.93 (s, 3 H) 3.15 (q, J=7.45 Hz, 2 H) 3.56 (s, 8 H) 3.62-3.71 (m, 2 H) 3.98-4.06 (m, J=8.66, 2.89 Hz, 2 H) 4.33-4.42 (m, 1 H) 4.45-4.54 (m, 4 H) 4.61 (s, 2 H) 7.17 (dd, J=10.54, 8.53 Hz, 1 H) 7.38-7.44 (m, J=5.52, 3.01 Hz, 1 H) 7.49-7.63 (m, 4 H) 7.64-7.70 (m, 2 H) 7.74 (s, 1 H) 7.97-8.03 (m, 2 H) 8.32 (s, 1 H).

reactant | 1,1-dimethylethyl 4-{[5′-({[(3-{[{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}(methyl)amino]carbonyl}phenyl) carbonyl]amino}methyl)-2′-fluoro-3-biphenylyl]methyl}-1-piperazinecarboxylate | 0.066 mmol, 0.056 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CN(C(=O)C=2C=C(C=CC2)C(=O)NCC=2C=CC(=C(C2)C2=CC(=CC=C2)CN2CCN(CC2)C(=O)OC(C)(C)C)F)C)CC | C48H59FN8O5
reactant | TFA | 0.25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 0.25 mL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-fluoro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-N-methyl-1,3-benzenedicarboxamide | 0.047 g, 95% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CN(C(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CN2CCNCC2)C)CC | C43H51FN8O3
